US03954889
112 g of isobutylene were introduced with stirring into 198 g of 1-phenyl-1-(4-hydroxy-phenyl)-ethane and 30 g of an acid activated Fuller's earth at 150°C and the reaction mixture was then stirred at this temperature for 5 hours. 34 g of 1,3,3-trimethyl-1-phenyl-5-hydroxy-indane could be obtained by distillation followed by recrystallisation.

reactant | isobutylene | 112 g | CC(C)=C | C4H8
reactant | 1-phenyl-1-(4-hydroxy-phenyl)-ethane | 198 g | C1(=CC=CC=C1)C(C)C1=CC=C(C=C1)O | C14H14O
product | 1,3,3-trimethyl-1-phenyl-5-hydroxy-indane | 34 g | CC1(CC(C2=CC(=CC=C12)O)(C)C)C1=CC=CC=C1 | C18H20O
